US07678801B2
18d) 4-chloro-8-(2,6-difluorophenyl)-2-{[2-hydroxy-1-(hydroxymethyl)ethyl]amino}pyrido[2,3-d]pyrimidin-7(8H)-one
A solution of 4-chloro-2-methylsulfinyl-8-(2,6-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one (0.75 mmol) in dichloromethane (30 mL) was mixed with a solution of serinol (0.075 g, 0.82 mmol) and Et3N (0.21 mL, 1.5 mmol) in DMF (0.75 mL). The resultant mixture was stirred at room temperature for about 1 hour, then concentrated under vaccum. Flash chromatography (EtOAc:Hexane, 3:1) provided the title compound 4-chloro-8-(2,6-difluorophenyl)-2-{[2-hydroxy-1-(hydroxy-methyl)ethyl]amino}pyrido[2,3-d]pyrimidin-7(8H)-one (42%): LC-MS m/z 383 (M+H)+; 1H-NMR(CDCl3) δ 1.95 (s, br, 2H), 3.90 (m, br, 5H), 6.05 (m, br, 1H), 6.56 (d, J=9.6 Hz, 1H), 7.10 (m, 2H), 7.48 (d, J=8.1 Hz, 2H), 7.94 (d, J=9.6 Hz, 1H).

reactant | 4-chloro-2-methylsulfinyl-8-(2,6-difluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.75 mmol | ClC=1C2=C(N=C(N1)S(=O)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3O2S
reactant | serinol | 0.82 mmol, 0.075 g | NC(CO)CO | C3H9NO2
reactant | Et3N | 1.5 mmol, 0.21 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
product | 4-chloro-8-(2,6-difluorophenyl)-2-{[2-hydroxy-1-(hydroxy-methyl)ethyl]amino}pyrido[2,3-d]pyrimidin-7(8H)-one | 42% | ClC=1C2=C(N=C(N1)NC(CO)CO)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C16H13ClF2N4O3
